US04045560
A solution of 9-β-propenyl-9,10-dihydro-9,10-ethanoanthracene (1.1 g) and m-chloroperbenzoic acid (1.6 g) in ether was stirred at room temperature for 5 days. The solution was diluted with benzene, washed with aqueous sodium hydroxide solution and water, dried over anhydrous sodium sulfate and evaporated to dryness to give 9-β,γ-epoxypropyl-9,10-dihydro-9,10-ethanoanthracene as an oil, I.R., 3070, 3040, 3020, 2860, 1263, 1140, 1033, 830, 760, 680, 630 cm-1.

reactant | 9-β-propenyl-9,10-dihydro-9,10-ethanoanthracene | 1.1 g | C(C=C)C12C3=CC=CC=C3C(C=3C=CC=CC13)CC2 | C19H18
reactant | m-chloroperbenzoic acid | 1.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ether | CCOCC | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 9-β,γ-epoxypropyl-9,10-dihydro-9,10-ethanoanthracene | O1C(CC2=CC=CC=3C4C5=CC=CC=C5C(C23)CC4)C1 | C19H18O
